US08486952B2
To a solution of 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) (100 mg, 0.353 mmol) in THF (1766 μL) was added (R)-1-cyclopropylethanamine, HCl (172 mg, 1.413 mmol) and DIEA (493 μL, 2.83 mmol). The mixture was stirred at 60° C. for 5 days. The crude product was purified by Prep-HPLC get 2-chloro-N—((R)-1-cyclopropylethyl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (Preparation Haa) (74 mg, 0.223 mmol, 63.1% yield). LC-MS (M+H)+=332.3. 1H NMR (500 MHz, CDCl3) δ ppm 7.06-7.18 (m, 2H) 7.00 (td, J=8.70, 1.53 Hz, 2H) 4.65 (d, J=5.80 Hz, 1H) 4.26 (t, J=7.17 Hz, 1H) 3.63-3.79 (m, 1H) 2.62-2.82 (m, 3H) 2.04-2.16 (m, 1H) 1.26-1.40 (m, 3H) 0.94 (qd, J=8.24, 3.36 Hz, 1H) 0.42-0.62 (m, 3H) 0.24-0.40 (m, 1H).

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.353 mmol, 100 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | DIEA | 2.83 mmol, 493 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 1766 μL | C1CCOC1 | C4H8O
product | 2-chloro-N—((R)-1-cyclopropylethyl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.223 mmol, 74 mg, 63.1% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N[C@H](C)C2CC2 | C18H19ClFN3
